US06121202
Preparation of 4-Methyl-6-(α,α,α-trifluoro-p-tolyl)-2-{[-(trifluoromethyl)-3-thienyl]oxy}pyridine
A solution of 6-bromo-4-methyl-2-{[5-(trifluoromethyl)-3-thienyl]oxy}pyridine (1.16 g, 3.43 mmol) in dimethoxyethane is treated with tetrakis(triphenylphosphine) Pd (79 mg, 0.069 mmol), stirred at room temperature for 30 minutes under N2, treated with α,α,α-trifluoro-p-tolylboronic acid (0.72 g, 3.77 mmol), NaHCO3 (0.95 g, 11.32 mmol) and water, heated at reflux temperature for 1.5 hours, cooled to room temperature, diluted with a mixture of ethyl acetate and water to give a two phase mixture. The phases are separated and the organic phase is set aside. The aqueous phase is extracted with ethyl acetate. The ethyl acetate extracts are combined with the organic phase, washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo to give an amber oil residue. The residue is chromatographed (silica gel, ethyl acetate/hexanes, 5/95) to give the title product as a clear oil, which solidified upon drying in a Kugelrohr, to a waxy white solid, 1.22 g (88% yield), mp 52.5-55.5° C., identified by 1HNMR, 13CNMR, 19FNMR, mass spectral and elemental analyses.

reactant | 6-bromo-4-methyl-2-{[5-(trifluoromethyl)-3-thienyl]oxy}pyridine | 3.43 mmol, 1.16 g | BrC1=CC(=CC(=N1)OC1=CSC(=C1)C(F)(F)F)C | C11H7BrF3NOS
reactant | α,α,α-trifluoro-p-tolylboronic acid | 3.77 mmol, 0.72 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | NaHCO3 | 11.32 mmol, 0.95 g | C(=O)(O)[O-].[Na+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-Methyl-6-(α,α,α-trifluoro-p-tolyl)-2-{[-(trifluoromethyl)-3-thienyl]oxy}pyridine | 88% yield | CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)OC1=C(SC=C1)C(F)(F)F | C18H11F6NOS
